US04602027
2-(2-Chlorostyryl)-4-hydroxymethyl-5-methyloxazole (3.6 g) was added portionwise to thionyl chloride (18 ml) with ice-cooling and stirring. The mixture was stirred at room temperature for 20 minutes and the thionyl chloride was distilled off. To the residue was added aqueous sodium hydrogen carbonate and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off to give 4-chloromethyl-2-(2-chlorostyryl)-5-methyloxazole as crystals; yield 3.65 g (99.5%). Recrystallization from ethyl ether gave colorless needles melting at 109°-110° C.

reactant | 2-(2-Chlorostyryl)-4-hydroxymethyl-5-methyloxazole | 3.6 g | ClC1=C(C=CC=2OC(=C(N2)CO)C)C=CC=C1 | C13H12ClNO2
reactant | thionyl chloride | 18 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-chloromethyl-2-(2-chlorostyryl)-5-methyloxazole | ClCC=1N=C(OC1C)C=CC1=C(C=CC=C1)Cl | C13H11Cl2NO
